US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide hydrochloride (15.0 g) was dissolved in dimethylformamide (100 ml) and toluene (150 ml), and potassium carbonate (18.6 g) and 4-bromobutylphthalimide (12.7 g) were added. The mixture was stirred at 70° C. for 2 hr. The reaction mixture was concentrated under reduced pressure and the residue was extracted with ethyl acetate. The extract was dried over magnesium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography to give 13.6 g of 4-amino-5-chloro-N-(1-(4-(2,3-dihydro-1,3-dioxo-1 H-isoindol-2-yl)butyl)piperidin-4-ylmethyl)-2-methoxybenzamide.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide hydrochloride | 15.0 g | Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | potassium carbonate | 18.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromobutylphthalimide | 12.7 g | BrCCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C12H12BrNO2
reactant | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4-amino-5-chloro-N-(1-(4-(2,3-dihydro-1,3-dioxo-1 H-isoindol-2-yl)butyl)piperidin-4-ylmethyl)-2-methoxybenzamide | 13.6 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCN2C(C3=CC=CC=C3C2=O)=O)C=C1Cl)OC | C26H31ClN4O4
